US04465851
A mixture of 9.89 g of trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride, 10.1 g of 3-hydroxyflavon and 8.66 g of dicyclohexylcarbodiimide was added to 100 ml of dry pyridine, and the resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was filtered to remove any insoluble materials which were washed with pyridine. The filtrate and the washing were combined and evaporated. 0.1N hydrochloric acid was added to the residue, and the mixture was washed with ethyl acetate. The aqueous layer was concentrated to 30 ml and allowed to stand overnight in a refrigerator to obtain 1 g of 3'-flavonyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride as colorless needles having a melting point of 201°-203° C.

reactant | trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 9.89 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | 3-hydroxyflavon | 10.1 g | OC1=C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C15H10O3
reactant | dicyclohexylcarbodiimide | 8.66 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3'-flavonyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride | 1 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)OC=1C=C(C=2OC3=CC=CC=C3C(C2)=O)C=CC1 | InChI=1S/C24H25N3O4.ClH/c25-24(26)27-14-15-8-10-16(11-9-15)23(29)30-18-5-3-4-17(12-18)22-13-20(28)19-6-1-2-7-21(19)31-22;/h1-7,12-13,15-16H,8-11,14H2,(H4,25,26,27);1H/t15-,16-;
